US09290451B2
e) 6-(Cyclopropylmethoxy)-5-(1,1-dioxido-isothiazolidin-2-yl)-N-[2-(1,3-thiazol-2-yl)propan-2-yl]pyridine-2-carboxamide
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid and α,α-dimethyl-2-thiazolemethanamine (CAN 1082393-38-1) as starting materials, MS (EI): m/e=437.0 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-(1,1-dioxido-isothiazolidin-2-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)N1S(CCC1)(=O)=O | C13H16N2O5S
reactant | α,α-dimethyl-2-thiazolemethanamine | CC(N)(C=1SC=CN1)C | C6H10N2S
product | 6-(Cyclopropylmethoxy)-5-(1,1-dioxido-isothiazolidin-2-yl)-N-[2-(1,3-thiazol-2-yl)propan-2-yl]pyridine-2-carboxamide | C1(CC1)COC1=C(C=CC(=N1)C(=O)NC(C)(C)C=1SC=CN1)N1S(CCC1)(=O)=O | C19H24N4O4S2
